US07534797B2
(8-Chloro-1-iodo-3-[3-(4-methyl-piperazin-1-yl)-cyclobutyl]-imidazo[1,5-a]pyrazine)
1-Methyl piperazine (5.75 mL, 0.0514 mol) in 1,2-dichloroethane (1096.7 mL, 13.892 mol) was added to 3-(8-chloro-1-iodo-imidazo[1,5-a]pyrazin-3-yl)-cyclobutanone (17.00 g, 0.04892 mol) and sodium triacetoxyborohydride (21.8 g, 0.0978 mol). The reaction stirred at rt for 3 h. The reaction was concentrated, dissolved in CH2Cl2, and then washed with saturated NaHCO3 solution and brine. The product was dried over sodium sulfate, filtered, and concentrated in vacuo. The product was flushed through a quick silica gel plug (wetted with 100% CHCl3, eluted with 8% (7N NH3) MeOH in CHCl3), to afford the title compound; 1H NMR (CDCl3, 400 MHz) δ 7.63 (1H, d), 7.30 (1H, d), 3.42 (1H, m), 2.94 (1H, m), 2.65 (4H, m), 2.44 (8H, m), 2.32 (3H, s); MS (ES+): m/z 431.85/433.87 (100/45) [MH+]; HPLC: tR=1.82 min. (OpenLynx, polar—5 min.).

reactant | 1-Methyl piperazine | 0.0514 mol, 5.75 mL | CN1CCNCC1 | C5H12N2
reactant | 1,2-dichloroethane | 13.892 mol, 1096.7 mL | ClCCCl | C2H4Cl2
reactant | 3-(8-chloro-1-iodo-imidazo[1,5-a]pyrazin-3-yl)-cyclobutanone | 0.04892 mol, 17.00 g | ClC=1C=2N(C=CN1)C(=NC2I)C2CC(C2)=O | C10H7ClIN3O
reactant | sodium triacetoxyborohydride | 0.0978 mol, 21.8 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 8-Chloro-1-iodo-3-[3-(4-methyl-piperazin-1-yl)-cyclobutyl]-imidazo[1,5-a]pyrazine | ClC=1C=2N(C=CN1)C(=NC2I)C2CC(C2)N2CCN(CC2)C | C15H19ClIN5
